US05112829
1-Ethyl-2,3,9,10,11,12-hexahydro-3-methyl-1H-quino[4,3,2-ef][1,4]benzoxazepine
To a solution of lithium aluminum hydride in tetrahydrofuran (1M, 14.22 ml) and dry tetrahydrofuran (30 ml) was added aluminum chloride (1.90 g) in portions, with stirring. After five mins, 1-ethyl-3-methyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (4.21 g) was added and stirring was continued for 0.5 hr. The reaction mixture was quenched with ethyl acetate (200 ml) and 10% sodium hydroxide solution (200 ml). The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated. Recrystallized of the residue from diethyl ether/pentane gave 2.17 g (54%) of product, mp 101°-103° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 1.90 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-ethyl-3-methyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.21 g | C(C)N1C(C(OC2=C3C1=C1CCCCC1=NC3=CC=C2)C)=O | C18H20N2O2
solvent | tetrahydrofuran | 1M, 14.22 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-Ethyl-2,3,9,10,11,12-hexahydro-3-methyl-1H-quino[4,3,2-ef][1,4]benzoxazepine | 2.17 g, 54% | C(C)N1CC(OC2=C3C1=C1CCCCC1=NC3=CC=C2)C | C18H22N2O
